US09290483B2
Synthesis of 2,7-dibromo-9,9-bis(3′-bromopropyl)fluorene
The following products are added, in an inert atmosphere, to a solution of 2,7-dibromofluorene (10.0 g, 31.06 mmoles) in 40 ml of 1,3-dibromopropane: first sodium hydroxide (30.0 g, 750.0 mmoles) dissolved in 60 ml of water and finally 0.2 g of tetrabutylammonium bromide. The temperature is brought to 100° C. After 6 hours, after the addition of water, extraction is effected with dichloromethane. After washing the organic phase with water until neutrality, said organic phase is anhydrified on sodium sulfate. The dichloromethane and 1,3-dibromopropane in excess are removed by distillation at reduced pressure. After purification by elution on a chromatographic silica gel column (eluent: heptane/ethyl acetate=99/1), 5.2 g of 2,7-dibromo-9,9-bis(3′-bromopropyl)fluorene are obtained (yield=30%).

reactant | 2,7-dibromofluorene | 31.06 mmoles, 10.0 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | sodium hydroxide | 750.0 mmoles, 30.0 g | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | 1,3-dibromopropane | 40 ml | BrCCCBr | C3H6Br2
solvent | water | 60 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,7-dibromo-9,9-bis(3′-bromopropyl)fluorene | yield=30% | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCBr)CCCBr | C19H18Br4
